Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
RUQ abdominal/flank pain, R pleuritic chest pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
 ___ with GERD, hiatal hernia, h/o thyroid Ca s/p thyroidectomy 
___ years ago who presents with RUQ/lower R chest pain since 
___. Patient reports pain started suddenly and was initially 
concerned that it was muscle pull or reflux. She took pepcid 
without benefit. Unable to sleep given pain. Took 6 tabs 
ibuprofen without relief. Pain was worse with inspiration, worse 
when lying on affected side. Denies chest pain, denies SOB, 
denies lightheadedness, denies ___ edema. Not affected by eating 
(pt does have a h/o gallstones). No f/c, N/V/D.  
 In the ED, initial vitals were: 97.9 111 139/60 8 97% RA  
 - Exam notable for:  
 Tachy to 111, otherwise VSS  
 Gen: well-appearing  
 CV: RRR, no M/R/G  
 Resp: unable to take deep breath, CTAB  
 Chest wall: no TTP  
 Abd: non-distended, soft, non-tender. Neg ___ sign  
 Ext: no swelling, no calf tenderness  
 - Labs notable for: DDimer 770  
 - Imaging was notable for:  
 CTA chest: 1. Segmental and subsegmental pulmonary emboli 
within the right lower lobe associated with pulmonary infarction 
in the peripheral anterior aspect of the right lower lobe. No CT 
evidence for right heart strain. 2. Small right pleural 
effusion.  
 CXR: Wedge-shaped opacity within the periphery of the right 
lower lobe concerning for pulmonary infarction and further 
assessment with chest CTA is recommended to evaluate for 
pulmonary embolism. No pneumothorax.  
 - Patient was given: lovenox 70 mg SQ  
 - Vitals prior to transfer: 98.1 97 116/67 14 98% RA  
 Upon arrival to the floor, patient reports pain is persistent, 
worse with inspiration, worse when lying on affected side. 
Denies palpitations, lightheadedness, chest tightness, chest 
pain.  
 Notably, denies long plane ___ car rides, recent 
surgery or immobility. Last ___ within the year, had breast bx 
that was negative for malignancy per pt report. Last pap smear ___ 
years ago, wnl per pt. No prior cervical bx. No weight loss, 
fevers, chills, night sweats. Follows with endocrinologist at 
___ for her hypothyroidism (s/p thyroidectomy), had bone scan 
notable for osteoporosis. Does not have routine imaging for 
thyroid malignancy follow up. No hormonal use. Never smoker  
 
 REVIEW OF SYSTEMS:  
 (+) Per HPI  
 (-) 10 point ROS reviewed and negative unless stated above in 
HPI  

 
Past Medical History:
 - GERD, hiatal hernia  
 -macular degeneration  
 -papillary thyroid Ca s/p partial thyroidectomy ___  
 -Hypothyroidism  
 -high cholesterol  
 
Social History:
___
Family History:
father had ___ disease. Mother had breast cancer (___) 
and dementia. One daughter has primary biliary cholangitis. No 
___ blood clots, PE, DVT. Father was on ___ for unknown 
indication  
 
Physical Exam:
ADMISSION EXAM:
Vital Signs: 99.8 103/59 109 20 94 RA  
 General: Alert, oriented, no acute distress  
 HEENT: Sclerae anicteric, MMM, oropharynx clear, EOMI, PERRL.  
 Neck: Supple. JVP not elevated. no LAD  
 CV: tachycardic, regular. Normal S1+S2, no murmurs, rubs, 
gallops.  
 Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi. No chest wall tenderness  
 Abdomen: Soft, non-tender, non-distended, bowel sounds present, 
no rebound or guarding  
 GU: No foley  
 Ext: Warm, well perfused, 2+ pulses, no edema  
 Neuro: CNII-XII intact, ___ strength upper/lower extremities, 
grossly normal sensation, 2+ reflexes bilaterally, gait 
deferred.  

DISCHARGE EXAM:
Vital Signs: T98.1 BP 102 / 55 73 18 96 RA
General: Alert, oriented, no acute distress  
HEENT: Sclerae anicteric, MMM, oropharynx clear, EOMI, PERRL.  
Neck: Supple. JVP not elevated. no LAD  
CV: tachycardic, regular. Normal S1+S2, no murmurs, rubs, 
gallops.  
Lungs: Decreased breath sounds in RLL, otherwise clear to 
auscultation bilaterally, no wheezes, rales, rhonchi. Posterior 
chest wall tender to palpation
Abdomen: Soft, non-tender, non-distended, bowel sounds present, 
no rebound or guarding  
GU: No foley  
Ext: Warm, well perfused, 2+ pulses, no edema  
Neuro: CNII-XII intact, ___ strength upper/lower extremities, 
grossly normal sensation, 2+ reflexes bilaterally, gait 
deferred.  
 
 
Pertinent Results:
ADMISSION LABS
==============
___ 03:15PM BLOOD WBC-9.4# RBC-4.69 Hgb-14.1 Hct-42.4 
MCV-90 MCH-30.1 MCHC-33.3 RDW-12.8 RDWSD-42.5 Plt ___
___ 03:15PM BLOOD Neuts-59.3 ___ Monos-11.9 
Eos-0.1* Baso-0.4 Im ___ AbsNeut-5.55 AbsLymp-2.61 
AbsMono-1.12* AbsEos-0.01* AbsBaso-0.04
___ 03:15PM BLOOD ___ PTT-26.6 ___
___ 03:15PM BLOOD Glucose-102* UreaN-12 Creat-0.8 Na-139 
K-4.1 Cl-101 HCO3-22 AnGap-20
___ 03:15PM BLOOD ALT-32 AST-40 AlkPhos-64 TotBili-0.6
___ 03:15PM BLOOD Lipase-24
___ 03:15PM BLOOD cTropnT-<0.01 proBNP-111
___ 03:30PM BLOOD D-Dimer-740*

IMAGING
=========
CTA chest ___: 1. Segmental and subsegmental pulmonary 
emboli within the right lower lobe associated with pulmonary 
infarction in the peripheral anterior aspect of the right lower 
lobe. No CT evidence for right heart strain. 2. Small right 
pleural effusion.  

CXR ___: Wedge-shaped opacity within the periphery of the 
right lower lobe concerning for pulmonary infarction and further 
assessment with chest CTA is recommended to evaluate for 
pulmonary embolism. No pneumothorax.  

DISCHARGE LABS
=============
___ 03:15PM BLOOD WBC-9.4# RBC-4.69 Hgb-14.1 Hct-42.4 
MCV-90 MCH-30.1 MCHC-33.3 RDW-12.8 RDWSD-42.5 Plt ___
___ 06:10AM BLOOD ___ PTT-29.0 ___
___ 06:10AM BLOOD Glucose-83 UreaN-11 Creat-0.7 Na-139 
K-3.5 Cl-101 HCO3-26 AnGap-16
___ 06:10AM BLOOD ALT-26 AST-24 LD(LDH)-179 AlkPhos-59 
TotBili-0.8
___ 06:10AM BLOOD cTropnT-<0.01
___ 06:10AM BLOOD Albumin-3.9 Calcium-8.8 Phos-3.1 Mg-2.2
___ 06:10AM BLOOD TSH-1.5
 
Brief Hospital Course:
Mrs. ___ is a ___ year old female with a history of 
papillary thyroid carcinoma s/p partial thyroidectomy in ___, 
GERD and hiatal hernia who presented to the ___ ED with RUQ 
abdominal/flank and right-sided posterior chest wall pleuritic 
pain, found to have RLL segmental and subsegmental PEs, with 
associated RLL pulmonary infarction.

ACTIVE ISSUES: 
# Segmental and subsegmental PEs:
Patient presented with RUQ and right posterior chest wall pain, 
which was noted to be pleuritic in nature and worsened with 
inspiration. Initial CXR was concerning for a wedge like opacity 
within the periphery of the right lower lobe concerning for 
pulmonary infarction. CTA chest revealed segmental and 
subsegmental PEs in the right lower lobe, accompanied with 
pulmonary infarction in the peripheral anterior aspect of the 
right lower lobe. Patient had no evidence of right heart strain 
and cardiac markers (troponin and BNP) were negative. Underlying 
etiology of forming a VTE is unclear at this time. Patient does 
not endorse recent history of being immobile, and further denies 
any medications associated with formation of PE. She has a 
history of papillary thyroid cancer ___ years prior) but is s/p 
thyroidectomy. Her age-appropriate cancer screening includes 
regular colonoscopies with a known history of polyps, but last 
colonoscopy in ___ was within normal (pt was recommended f/u 
in ___ years), also up to date on mammography and pap smears. 

Patient was treated as an unprovoked PE, and was initiated on 
lovenox therapy, and transitioned to Rivaroxaban for 6 month 
course for unprovoked PE. She will be seen as an outpatient by 
hematology/oncology to assess etiology of PE and complete a 
hypercoagulable workup. 

TRANSITIONAL ISSUES:
====================
[] Pt was started on a 6 month course of Rivaroxaban for 
unprovoked segmental and subsegmental PE, with associated 
pulmonary infarct. Patient will take Rivaroxaban 15mg BID for 21 
days (start date ___, end date ___, and then transition to 
Rivaroxaban 20mg once daily for 6 months (end date ___. 
She will further followup with her PCP and outpatient 
hematologist for further hypercoagulable workup to guide length 
of therapy.
[] Please readdress the length of anticoagulation required with 
Rivaroxaban pending outpatient workup with hem/onc. 
[] Please ensure patient is compliant with taking Rivaroxaban 
daily to prevent future blood clots
[] Pt will benefit from f/u with endocrinologist to consider 
repeat thyroid imaging including thyroid U/S as well as TSH/FT4 
to ensure no evidence of recurrence of her thyroid ca, and to 
determine if patients thyroid cancer history is related to 
development of a PE .
[] Pt had incidentally found cholelithiasis noted on CT imaging, 
however had normal LFTs on this admission. Pt will benefit from 
repeating LFTs if pt becomes symptomatic in the future.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Famotidine 20 mg PO DAILY 
2. Simvastatin 10 mg PO QPM 
3. Levothyroxine Sodium 125 mcg PO DAILY 
4. ALPRAZolam 0.25 mg PO QHS:PRN anxiety, insomnia 

 
Discharge Medications:
1.  Acetaminophen 325-650 mg PO Q6H:PRN Pain - Mild 
RX *acetaminophen 325 mg 2 tablet(s) by mouth every 6 hours Disp 
#*60 Tablet Refills:*0 
2.  Rivaroxaban 15 mg PO BID Duration: 21 Days 
Dose #1 of 2: Please take 15mg twice daily for 3 weeks, then 
switch to Dose #2 of 2  
RX *rivaroxaban [___] 15 mg 1 tablet(s) by mouth twice daily 
Disp #*42 Tablet Refills:*0 
3.  Rivaroxaban 20 mg PO DAILY 
Dose #2 of 2: Please start 20mg daily after ___ complete 3 weeks 
of 15mg twice daily 
RX *rivaroxaban [___] 20 mg 1 tablet(s) by mouth daily Disp 
#*30 Tablet Refills:*0 
4.  ALPRAZolam 0.25 mg PO QHS:PRN anxiety, insomnia  
5.  Famotidine 20 mg PO DAILY  
6.  Levothyroxine Sodium 125 mcg PO DAILY  
7.  Simvastatin 10 mg PO QPM  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Pulmonary Embolism (segmental and subsegmental PE)

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___,

___ presented to the ___ ED with right flank and right upper 
abdominal pain, accompanied with right-sided posterior chest 
wall pain that worsened with inspiration. ___ were assessed with 
labs and imaging, and a CT scan of your chest showed several 
pulmonary emboli as well as an associated pulmonary infarction 
(a damaged area of the lung due to lack of blood flow). 

Due to the above finding of a pulmonary embolism and pulmonary 
infarction, ___ were admitted to the inpatient service, where 
___ were assessed with labs and monitored on telemetry. ___ had 
no difficulty maintaining your oxygen saturation, and your pain 
was well controlled while admitted to the inpatient service. ___ 
were transitioned from Lovenox to Rivaroxaban, a medication to 
prevent further development of blood clots in your lungs or 
elsewhere in your body. ___ will readdress how long ___ need to 
be on your Rivaroxaban with your outpatient primary care 
physician and outpatient hematologist, however ___ will likely 
continue Rivaroxaban for a minimum of 6 months. 

Please ensure that ___ take your prescribed medications as 
instructed below, and ensure that ___ take this medication every 
day to prevent future clots. 

Please also followup at the appointments noted below that have 
been arranged on your behalf.

It was a pleasure being involved in your care. 
Your ___ care team

 
Followup Instructions:
___